Square Wave 820us (Steady)

Vsource 2 0 PULSE(0 5 0 1n 1n 410u 820u)
R1 2 1 820
C1 1 0 1u

* Simulate to 10ms
.tran 5u 10ms

.control
    run
    wrdata sq2_steady.txt v(1) v(2)
.endc

.end
